US05212187
N-[2-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea
Preparation is effected analogously to Example 63, using 0.33 g (1.2 mmol) of N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,2-ethanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.4 g (1.6 mmol) of 3-[3-(piperidinomethyl)phenoxy]propaneamine in 10 ml of absolute tetrahydrofuran as starting materials. Working up by chromatography (eluant: ethyl acetate) analogously to Example 63 yields the purified title compound in the form of an oil; MS (EI-80 eV): m/z (rel. int.[%])=543 ([M]+, 1), 84 (100). For analytical purposes a sample is converted into the hydrochloride and recrystallised from ether/ethanol; m.p.: from 130° C. with decomposition.

reactant | N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,2-ethanediamine | 1.2 mmol, 0.33 g | CN(CCN)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C17H23N3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(piperidinomethyl)phenoxy]propaneamine | 1.6 mmol, 0.4 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea | C1(=CC=CC=C1)C(CCN(C)CCNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C1=NC=CC=C1 | C33H45N5O2
